US03963683
In like manner a mixture comprising 120 grams (2.0 moles) of anhydrous acetic acid and 314 grams (4.3 mole) of n-octylamine along with 200 cc. of xylene is placed in a 1 liter flask equipped with a Dean-Stark water trap. The flask is then heated to reflux and maintained thereat for a period of 3 hours, the water of condensation which is formed during the reaction being continuously removed from the system. At the end of the 3-hour period, the temperature of the flask is increased until the xylene solvent has been distilled off. Upon recovery of the solvent, the reaction mixture is then allowed to cool to room temperature and transferred to a separate flask. The N,N'-dioctylacetamidine which is prepared thusly is then placed in a flask along with triethylamine and a benzene solvent following which the flask is then cooled to a temperature of 0° C. Upon reaching this reduced temperature, the mixture is treated by slowly adding dropwise an equimolar amount of cyclohexanesulfenyl chloride, the temperature of the solution being maintained in a range of from 0° to 10° C. Upon completion of the addition of the cyclohexanesulfenyl chloride which is accompanied by continuous stirring, the mixture is allowed to return to room temperature while maintaining the stirring thereof. At the end of a 1-hour period, the solid which is formed is washed with benzene and air dried for a period of 24 hours. The solution is then washed with water, dried over magnesium sulfate and the benzene solvent is removed by vacuum. Upon further standing, the desired product comprising N,N'-dioctyl-N-cyclohexylthioacetamidine will crystallize out and may be then recrystallized from an isopropyl-ethyl acetate solution.

reactant | acetic acid | 2.0 moles, 120 grams | C(C)(=O)O | C2H4O2
reactant | n-octylamine | 4.3 mole, 314 grams | C(CCCCCCC)N | C8H19N
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | cyclohexanesulfenyl chloride | C1(CCCCC1)SCl | C6H11ClS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N,N'-dioctylacetamidine | C(CCCCCCC)NC(C)=NCCCCCCCC | C18H38N2
